US08629270B2
tert-Butyl 3-amino-4-(hydroxymethyl)-3-isothiazol-5-yl-pyrrolidine-1-carboxylate
tert-Butyl 6a-isothiazol-5-yl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate (400.0 g, 1.35 mol), acetic acid (4.00 L) and zinc (439.78 g, 6.73 mol) are added together. The reaction mixture is heated to 40° C. and stirred at 40° C. for 8 hours and then cooled to room temperature. The reaction mixture is diluted with ethyl acetate (4 L), filtered through diatomaceous earth, washed with ethyl acetate, and evaporated under reduced pressure. The yellow oily residue is dissolved in toluene (2 L) and concentrated. The dissolution process with toluene is repeated 3 times. The foamy oil residue is suspended in 10% w/w aq. citric acid (3.2 L), MTBE (4 L) is added and the mixture is stirred for 15 minutes at room temperature. The biphasic mixture is filtered through diatomaceous earth (slow filtration) to remove the gel-like solids. The layers are separated and the aqueous layer is washed with MTBE (4×600 mL). The aqueous layer (pH 4.0) is added to ethyl acetate (3.0 L), and the mixture is neutralized with NaOH 50% w/w to adjust the pH=9.0-9.5 and the mixture is vigorously stirred. The organic layer is separated and the aqueous layer is extracted with ethyl acetate (3×1 L). The organic layers are combined, dried over sodium sulfate, filtered, and evaporated under reduced pressure to give the title compound as a white solid, (262.00 g, 65.1%). ES/MS (m/e): 300 (M+H).

reactant | tert-Butyl 6a-isothiazol-5-yl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate | 1.35 mol, 400.0 g | S1N=CC=C1C12NOCC1CN(C2)C(=O)OC(C)(C)C | C13H19N3O3S
reactant | acetic acid | 4.00 L | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 4 L | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 6.73 mol, 439.78 g | [Zn] | Zn
product | tert-Butyl 3-amino-4-(hydroxymethyl)-3-isothiazol-5-yl-pyrrolidine-1-carboxylate | 262.00 g, 65.1% | NC1(CN(CC1CO)C(=O)OC(C)(C)C)C1=CC=NS1 | C13H21N3O3S
